US08497371B2
2-(4-{[(4-methylphenyl)amino]carbonothioyl}-1-piperazinyl)-8-ethyl-5-oxo-5,8-dihydropyrido[2,3-d]pyrimidine-6-carboxylic acid (27)
Pipemidic acid (89 mg, 0.293 mmol) and p-tolyl isothiocyanate (40 mg, 0.268 mmol) were used. Purification on silica yielded compound 27 in Table 1, below (82 mg, 68%). 1H NMR (300 MHz, CDCl3) δ 9.32 (s, 1H), 8.67 (s, 1H), 7.40 (s, 1H), 7.17 (d, J=7.60 Hz, 2H), 7.09 (d, J=7.44 Hz, 2H), 4.33 (q, J=6.40 Hz, 2H), 4.23-3.91 (m, 8H), 2.34 (s, 3H), 1.49 (t, J=7.03 Hz, 3H) ppm.

reactant | Pipemidic acid | 0.293 mmol, 89 mg | CCN1C=C(C(=O)C2=C1N=C(N=C2)N3CCNCC3)C(=O)O | C14H17N5O3
reactant | p-tolyl isothiocyanate | 0.268 mmol, 40 mg | C1(=CC=C(C=C1)N=C=S)C | C8H7NS
product | 2-(4-{[(4-methylphenyl)amino]carbonothioyl}-1-piperazinyl)-8-ethyl-5-oxo-5,8-dihydropyrido[2,3-d]pyrimidine-6-carboxylic acid | CC1=CC=C(C=C1)NC(=S)N1CCN(CC1)C=1N=CC2=C(N1)N(C=C(C2=O)C(=O)O)CC | C22H24N6O3S
